US04526719
To a solution of p-nitrophenyl 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinone-6-yl)propionate (187 mg, 0.5 mmol) and N-nitro-L-arginine benzyl ester di-p-toluenesulfonate (327 mg, 0.5 mmol) in N,N-dimethylformamide (5 ml) was added triethylamine (0.25 ml, 1.7 mmol). The mixture was stirred at room temperature for 15 hours. After completion of the reaction, the solvent was distilled off and the residue was chromatographed on a column of silica gel (5 g) using methanol-chloroform (1:19, v/v) as eluent. The eluate was evaporated and the residue was dissolved in acetic acid (2 ml). With palladium black catalyst (30 mg), the solution was hydrogenated at room temperature for 10 hours. After completion of the reaction, the catalyst was removed and the solvent was distilled off. Methanol (5 ml) was added to the residue and the resulting solution was ice-cooled. A solution of ferric chloride (324 mg, 2 mmol) in water (1 ml) was added and the mixture was stirred for 15 minutes. The resulting mixture was passed through a column of Amberlite XAD-2 (3 g) with water to remove the inorganic matter. Elution with methanol gave a crude compound, which was then concentrated. The residue was chromatographed on a Sephadex LH20 column (1.5×45 cm) [eluent: ethanol-0.1 M acetic acid (3:2, v/v)]. The eluate was distilled off to give 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionyl-L-arginine (37 mg).

reactant | p-nitrophenyl 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinone-6-yl)propionate | 0.5 mmol, 187 mg | COC=1C(C(=C(C(C1OC)=O)C)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17NO8
reactant | N-nitro-L-arginine benzyl ester di-p-toluenesulfonate | 0.5 mmol, 327 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N[N+](=O)[O-])CCCNC(N)=N)=O
reactant | triethylamine | 1.7 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 1 ml | O | H2O
product | 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionyl-L-arginine | 37 mg | COC=1C(C(=C(C(C1OC)=O)C)CCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O)=O | C18H26N4O7
